US06784192B2
1-[(5-Chloro-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[2-[2-(isobutyloxy)phenyl]ethyl]piperidine oxalate
In ethanol (10 ml) was dissolved 443 mg of 1-[(5-chloro-2-methoxy-3-pyridinyl)methyl]-4-[2-[2-(isobutyloxy)phenyl]ethyl]piperidine. To the mixture was added 0.5 ml of thionyl chloride, followed by heating under reflux for 3 hours. An aqueous sodium carbonate was added to the reaction solution, and the mixture was extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The resulting oil was dissolved in ethanol, 99 mg of oxalic acid was added thereto, and then the resulting precipitates were collected by filtration, to give 382 mg of the title compound as a white powder.

reactant | 1-[(5-chloro-2-methoxy-3-pyridinyl)methyl]-4-[2-[2-(isobutyloxy)phenyl]ethyl]piperidine | 443 mg | ClC=1C=C(C(=NC1)OC)CN1CCC(CC1)CCC1=C(C=CC=C1)OCC(C)C | C24H33ClN2O2
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[(5-Chloro-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[2-[2-(isobutyloxy)phenyl]ethyl]piperidine oxalate | 382 mg | C(C(=O)O)(=O)O.ClC=1C=C(C(NC1)=O)CN1CCC(CC1)CCC1=C(C=CC=C1)OCC(C)C | InChI=1S/C23H31ClN2O2.C2H2O4/c1-17(2)16-28-22-6-4-3-5-19(22)8-7-18-9-11-26(12-10-18)15-20-13-21(24)14-25-23(20)27;3-1(4)2(5)6/h3-6,13-14,17-18H,7-12,15-16H2,1-2H3,(H,25,27);(H,3,4)(H,5,6)
